US08133882B2
To a 30 ml dichloromethane suspension of 3.69 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxamide were added at −78° C. 7.0 ml of triethylamine and a 10 ml dichloromethane solution of 4.0 ml of trifluoroacetic anhydride. After gradually rising the temperature, it was stirred at room temperature for 2 days. After adding water, it was extracted with chloroform, followed by drying over anhydrous sodium sulfate. After filtration, the solvent was evaporated under a reduced pressure and the resulting residue was purified by silica gel column chromatography. After adding a mixed solvent of 30 ml of THF, 30 ml of methanol and 10 ml of water to the resulting solid, 2.3 g of potassium carbonate was added thereto under ice-cooling. After stirring at room temperature for 15 hours, 1.0 g of potassium carbonate was added thereto, followed by stirring at room temperature for 4 days. After evaporating the solvent under a reduced pressure, water was added, followed by extraction with chloroform. After drying over anhydrous sodium sulfate and subsequent filtration, the solvent was evaporated under a reduced pressure. By washing the resulting residue with ethyl acetate, 2.62 g of 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbonitrile was obtained.

reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carboxamide | 3.69 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C(=O)N)=O)F | C21H26FN3O2
reactant | triethylamine | 7.0 ml | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10 ml | ClCCl | CH2Cl2
reactant | trifluoroacetic anhydride | 4.0 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | water | O | H2O
product | 7-(cyclohexylamino)-1-cyclopentyl-6-fluoro-4-oxo-1,4-dihydroquinoline-3-carbonitrile | 2.62 g | C1(CCCCC1)NC1=C(C=C2C(C(=CN(C2=C1)C1CCCC1)C#N)=O)F | C21H24FN3O
